US08557983B2
(R)-1-(1,3-difluoropropan-2-yl)pyrrolidin-3-amine
To a solution of (R)-tert-butyl pyrrolidin-3-ylcarbamate (0.500 g) and 1,3-difluoropropan-2-one (0.278 g) in dichloromethane (5 mL) was added sodium triacetoxyborohydride (0.853 g). After stirring for 1 hour, the reaction was quenched with saturated NaHCO3 solution (5 mL). The product was extracted into dichloromethane (25 mL), dried over magnesium sulfate, filtered, and concentrated. The resulting crude material was treated with HCl (4.0M in dioxane, 4 mL) and methanol (1 mL) and stirred for 1 hour. The mixture was concentrated to provide the title compound.

reactant | (R)-tert-butyl pyrrolidin-3-ylcarbamate | 0.500 g | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | 1,3-difluoropropan-2-one | 0.278 g | FCC(CF)=O | C3H4F2O
reactant | sodium triacetoxyborohydride | 0.853 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (R)-1-(1,3-difluoropropan-2-yl)pyrrolidin-3-amine | FCC(CF)N1C[C@@H](CC1)N | C7H14F2N2
